US05451607
A solution of ethyl 4-chloro-2-(1-(methoxycarbonyl)ethoxy)benzoate (7.3 g) and 60% oil dispersion (1.5 g) of sodium hydride in tetrahydrofuran (70 ml) was heated at reflux for 30 minutes, and slowly cooled to room temperature. The reaction mixture was poured into ice-aqueous ammonium chloride and extracted with ether. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was subjected to chromatography on silica gel to give 6-chloro-2-methyl-3(2H)-benzofuranone (yield, 1.8 g).

reactant | ethyl 4-chloro-2-(1-(methoxycarbonyl)ethoxy)benzoate | 7.3 g | ClC1=CC(=C(C(=O)OCC)C=C1)OC(C)C(=O)OC | C13H15ClO5
reactant | sodium hydride | 1.5 g | [H-].[Na+]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 6-chloro-2-methyl-3(2H)-benzofuranone | 1.8 g | ClC1=CC2=C(C(C(O2)C)=O)C=C1 | C9H7ClO2
